US03933783
A solution of 3.9 g (20 mM) N-formyl-L-phenylalanine, 2.5 g (24 mM) glycine ethyl ester, and 1.7 g (20 mM) tert-butyl isonitrile in 30 ml dioxane was heated at 40°-50°C for 28 hours. It was then evaporated to dryness, and the residue was dissolved in 300 ml methylene chloride. The solution was washed as in the preceding examples, dried, and evaporated. The residue was crystallized from carbon tetrachloride and petroleum ether to produce 3.1 g N-formyl-L-phenylalanyl-glycine ethyl ester (48 percent yield based on the glycine ethyl ester).

reactant | N-formyl-L-phenylalanine | 20 mM, 3.9 g | C(=O)N[C@@H](CC1=CC=CC=C1)C(=O)O | C10H11NO3
reactant | glycine ethyl ester | 24 mM, 2.5 g | C(C)OC(CN)=O | C4H9NO2
reactant | tert-butyl isonitrile | 20 mM, 1.7 g | C(C)(C)(C)[N+]#[C-] | C5H9N
solvent | dioxane | 30 ml | O1CCOCC1 | C4H8O2
product | N-formyl-L-phenylalanyl-glycine ethyl ester | 3.1 g, 48 percent yield | C(C)OC(CNC([C@@H](NC=O)CC1=CC=CC=C1)=O)=O | C14H18N2O4
